US04871730
To a solution of 2-azidoethanol (0.9 g) in methylene chloride (25 ml) was added 2,6-lutidine (2.8 ml). After this solution was cooled to -78° C., trifluoromethanesulfonic anhydride (2 ml) was added dropwise thereto. The solution was stirred at -40~-30° C. for 3 hours and washed with water. The organic layer was separated, dried over anhydrous sodium sulfate and concentrated to give 2-azidoethyl trifluoromethanesulfonate (2.4 g).

reactant | 2-azidoethanol | 0.9 g | N(=[N+]=[N-])CCO | C2H5N3O
reactant | 2,6-lutidine | 2.8 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 2 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 2-azidoethyl trifluoromethanesulfonate | 2.4 g | FC(S(=O)(=O)OCCN=[N+]=[N-])(F)F | C3H4F3N3O3S
